US09056874B2
(±)-2-(hydroxy(5-methoxy-7-methyl-1H-indol-4-yl)methyl)benzofuran-6-carbonitrile
To a solution of tert-butyl 4-((6-cyanobenzofuran-2-yl)(hydroxy)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate (28 mg, 0.065 mmol) in MeOH (0.65 mL) at room temperature, Cs2CO3 (105 mg, 0.324 mmol) was added and the reaction was stirred at 60° C. After 30 minutes the reaction was cooled to room temperature and quenched with sat. aq. NH4Cl. The layers were separated and the aqueous layer was extracted with EtOAc. The combined organic phases were dried over MgSO4, filtered and concentrated. The resulting residue was purified by flash chromatography (0-80% EtOAc:Heptanes) to provide the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.86 (br. s., 1H) 8.03 (s, 1H) 7.66-7.78 (m, 1H) 7.58 (dd, J=8.08, 1.39 Hz, 1H) 7.18 (t, J=2.78 Hz, 1H) 6.83 (t, J=1.07 Hz, 1H) 6.76 (s, 1H) 6.41-6.55 (m, 2H) 6.03 (d, J=4.93 Hz, 1H) 3.80 (s, 3H) 2.39-2.47 (m, 3H). HRMS calcd. for C20H16N2O3 (M+H)+ 333.1234. found 333.1237.

reactant | tert-butyl 4-((6-cyanobenzofuran-2-yl)(hydroxy)methyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | 0.065 mmol, 28 mg | C(#N)C1=CC2=C(C=C(O2)C(C2=C3C=CN(C3=C(C=C2OC)C)C(=O)OC(C)(C)C)O)C=C1 | C25H24N2O5
reactant | Cs2CO3 | 0.324 mmol, 105 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeOH | 0.65 mL | CO | CH4O
product | (±)-2-(hydroxy(5-methoxy-7-methyl-1H-indol-4-yl)methyl)benzofuran-6-carbonitrile | OC(C=1OC2=C(C1)C=CC(=C2)C#N)C2=C1C=CNC1=C(C=C2OC)C | C20H16N2O3
